* File: netlist.pex.spi.pex
* Created: Thu Apr  9 16:03:34 2026
* Program "Calibre xRC"
* Version "v2013.1_34.21"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_senseamp_SAen 1 4 7 13 14 18 22 26 27 31 32 35 39 47 0
c57 22 0 1.06667e-19
r58 32 47 0.10692 !w=0.235 !layer=M1_FINAL !X=3.787 !Y=-4.834 !X2=3.787
+ !Y2=-4.925
r59 32 39 37.5 !w=0.09 !layer=LILCTP_FINAL !X=3.795 !Y=-4.834 !X2=3.795
+ !Y2=-4.834
r60 31 32 1 !w=0.1 !layer=VIA1X_FINAL !X=3.795 !Y=-4.834 !X2=3.795 !Y2=-4.834
r61 27 35 37.5 !w=0.09 !layer=LILCTP_FINAL !X=2.455 !Y=-4.834 !X2=2.455
+ !Y2=-4.834
r62 26 27 1 !w=0.1 !layer=VIA1X_FINAL !X=2.455 !Y=-4.834 !X2=2.455 !Y2=-4.834
r63 23 26 0.0587288 !w=0.1 !layer=M2X_FINAL !X=2.505 !Y=-4.835 !X2=2.455
+ !Y2=-4.835
r64 22 31 0.0587288 !w=0.1 !layer=M2X_FINAL !X=3.745 !Y=-4.835 !X2=3.795
+ !Y2=-4.835
r65 22 23 1.35559 !w=0.1 !layer=M2X_FINAL !X=3.745 !Y=-4.835 !X2=2.505
+ !Y2=-4.835
r66 18 21 37.5 !w=0.09 !layer=LILCTP_FINAL !X=3.795 !Y=-5.364 !X2=3.795
+ !Y2=-5.364
r67 15 18 0.096396 !w=0.11 !layer=M1_FINAL !X=3.795 !Y=-5.28 !X2=3.795
+ !Y2=-5.365
r68 15 47 0.384668 !w=0.09 !layer=M1_FINAL !X=3.795 !Y=-5.28 !X2=3.795
+ !Y2=-4.925
r69 14 39 4.63636 !w=0.11 !layer=IPOLY_FINAL !X=3.795 !Y=-4.8 !X2=3.795
+ !Y2=-4.834
r70 13 35 4.63636 !w=0.11 !layer=IPOLY_FINAL !X=2.455 !Y=-4.8 !X2=2.455
+ !Y2=-4.834
r71 7 14 28.8462 !w=0.078 !layer=IPOLY_FINAL !X=3.795 !Y=-4.65 !X2=3.795
+ !Y2=-4.8
r72 4 21 32.4011 !w=0.091 !layer=IPOLY_FINAL !X=3.795 !Y=-5.55 !X2=3.795
+ !Y2=-5.364
r73 1 13 28.8462 !w=0.078 !layer=IPOLY_FINAL !X=2.455 !Y=-4.65 !X2=2.455
+ !Y2=-4.8
.ends

.subckt PM_senseamp_SAF 1 3 4 5 6 11 14 17 20 25 27 30 34 37 40 43 46 51 54 56
+ 60 64 67 70 71 72 102 0
c160 67 0 1.44309e-19
c161 64 0 1.13866e-19
c162 46 0 1.67481e-19
c163 30 0 3.17853e-20
c164 14 0 9.37485e-20
c165 6 0 1.85797e-19
c166 5 0 1.96726e-19
c167 4 0 1.96726e-19
c168 1 0 1.96726e-19
r169 70 72 0.0826793 !w=0.18 !layer=M2X_FINAL !X=3.645 !Y=-2.39 !X2=3.555
+ !Y2=-2.39
r170 70 71 1 !w=0.1 !layer=VIA1X_FINAL !X=3.645 !Y=-2.389 !X2=3.645 !Y2=-2.389
r171 67 102 0.109944 !w=0.165 !layer=M1_FINAL !X=2.872 !Y=-2.379 !X2=2.872
+ !Y2=-2.47
r172 66 67 1 !w=0.1 !layer=VIA1X_FINAL !X=2.865 !Y=-2.379 !X2=2.865 !Y2=-2.379
r173 64 66 0.0826793 !w=0.18 !layer=M2X_FINAL !X=2.955 !Y=-2.38 !X2=2.865
+ !Y2=-2.38
r174 64 72 0.713352 !w=0.1 !layer=M2X_FINAL !X=2.955 !Y=-2.38 !X2=3.555
+ !Y2=-2.38
r175 60 61 37.5 !w=0.09 !layer=LILCTP_FINAL !X=3.2 !Y=-5.354 !X2=3.2 !Y2=-5.354
r176 49 51 0.118058 !w=0.09 !layer=M1_FINAL !X=2.76 !Y=-8.28 !X2=2.865 !Y2=-8.28
r177 46 47 37.5 !w=0.09 !layer=LILCTP_FINAL !X=2.76 !Y=-8.609 !X2=2.76
+ !Y2=-8.609
r178 41 54 0.110046 !w=0.09 !layer=M1_FINAL !X=2.91 !Y=-5.355 !X2=2.865
+ !Y2=-5.355
r179 40 60 0.0587288 !w=0.09 !layer=M1_FINAL !X=3.155 !Y=-5.355 !X2=3.2
+ !Y2=-5.355
r180 40 41 0.40981 !w=0.09 !layer=M1_FINAL !X=3.155 !Y=-5.355 !X2=2.91
+ !Y2=-5.355
r181 38 56 0.423445 !w=0.09 !layer=M1_FINAL !X=2.865 !Y=-2.89 !X2=2.865
+ !Y2=-2.935
r182 38 102 0.623642 !w=0.09 !layer=M1_FINAL !X=2.865 !Y=-2.89 !X2=2.865
+ !Y2=-2.47
r183 37 56 0.423445 !w=0.09 !layer=M1_FINAL !X=2.865 !Y=-2.98 !X2=2.865
+ !Y2=-2.935
r184 36 54 0.423445 !w=0.09 !layer=M1_FINAL !X=2.865 !Y=-5.31 !X2=2.865
+ !Y2=-5.355
r185 36 37 3.84903 !w=0.09 !layer=M1_FINAL !X=2.865 !Y=-5.31 !X2=2.865 !Y2=-2.98
r186 32 54 0.423445 !w=0.09 !layer=M1_FINAL !X=2.865 !Y=-5.4 !X2=2.865
+ !Y2=-5.355
r187 32 34 0.31882 !w=0.09 !layer=M1_FINAL !X=2.865 !Y=-5.4 !X2=2.865 !Y2=-5.634
r188 31 51 0.0587288 !w=0.09 !layer=M1_FINAL !X=2.865 !Y=-8.235 !X2=2.865
+ !Y2=-8.28
r189 31 34 3.54381 !w=0.09 !layer=M1_FINAL !X=2.865 !Y=-8.235 !X2=2.865
+ !Y2=-5.634
r190 30 49 0.0587288 !w=0.09 !layer=M1_FINAL !X=2.76 !Y=-8.325 !X2=2.76
+ !Y2=-8.28
r191 29 46 0.0691311 !w=0.17 !layer=M1_FINAL !X=2.76 !Y=-8.565 !X2=2.76
+ !Y2=-8.609
r192 29 30 0.260057 !w=0.09 !layer=M1_FINAL !X=2.76 !Y=-8.565 !X2=2.76
+ !Y2=-8.325
r193 28 43 0.0587288 !w=0.09 !layer=M1_FINAL !X=2.63 !Y=-2.935 !X2=2.585
+ !Y2=-2.935
r194 27 56 0.110046 !w=0.09 !layer=M1_FINAL !X=2.82 !Y=-2.935 !X2=2.865
+ !Y2=-2.935
r195 27 28 0.205879 !w=0.09 !layer=M1_FINAL !X=2.82 !Y=-2.935 !X2=2.63
+ !Y2=-2.935
r196 25 61 14.6066 !w=0.108 !layer=IPOLY_FINAL !X=3.255 !Y=-5.27 !X2=3.215
+ !Y2=-5.354
r197 20 25 205 !w=0.06 !layer=IPOLY_FINAL !X=3.255 !Y=-4.45 !X2=3.255 !Y2=-5.27
r198 17 61 30.1622 !w=0.108 !layer=IPOLY_FINAL !X=3.255 !Y=-5.55 !X2=3.215
+ !Y2=-5.354
r199 14 47 27.647 !w=0.094 !layer=IPOLY_FINAL !X=2.735 !Y=-8.77 !X2=2.76
+ !Y2=-8.609
r200 11 14 93.75 !w=0.06 !layer=IPOLY_FINAL !X=2.735 !Y=-9.345 !X2=2.735
+ !Y2=-8.97
r201 6 71 37.5 !w=0.09 !layer=LILSALI_FINAL !X=3.645 !Y=-2.389 !X2=3.645
+ !Y2=-2.389
r202 5 67 37.5 !w=0.09 !layer=LILSALI_FINAL !X=2.865 !Y=-2.379 !X2=2.865
+ !Y2=-2.379
r203 4 56 37.5 !w=0.09 !layer=LILSALI_FINAL !X=2.865 !Y=-2.934 !X2=2.865
+ !Y2=-2.934
r204 3 43 37.5 !w=0.09 !layer=LILSALI_FINAL !X=2.585 !Y=-2.934 !X2=2.585
+ !Y2=-2.934
r205 1 34 37.5 !w=0.09 !layer=LILSALI_FINAL !X=2.865 !Y=-5.634 !X2=2.865
+ !Y2=-5.634
.ends

.subckt PM_senseamp_pch 1 4 7 18 22 0
c35 4 0 3.18511e-19
c36 1 0 1.19915e-19
r37 22 23 37.5 !w=0.09 !layer=LILCTP_FINAL !X=3.515 !Y=-2.129 !X2=3.515
+ !Y2=-2.129
r38 18 22 0.390039 !w=0.09 !layer=M1_FINAL !X=3.26 !Y=-2.13 !X2=3.515 !Y2=-2.13
r39 18 20 37.5 !w=0.09 !layer=LILCTP_FINAL !X=3.26 !Y=-2.129 !X2=3.26 !Y2=-2.129
r40 14 18 0.388861 !w=0.09 !layer=M1_FINAL !X=3 !Y=-2.13 !X2=3.26 !Y2=-2.13
r41 14 15 37.5 !w=0.09 !layer=LILCTP_FINAL !X=3 !Y=-2.129 !X2=3 !Y2=-2.129
r42 7 23 30.2814 !w=0.1 !layer=IPOLY_FINAL !X=3.515 !Y=-2.315 !X2=3.522
+ !Y2=-2.129
r43 4 20 30.2814 !w=0.1 !layer=IPOLY_FINAL !X=3.255 !Y=-2.315 !X2=3.267
+ !Y2=-2.129
r44 1 15 30.2814 !w=0.1 !layer=IPOLY_FINAL !X=2.995 !Y=-2.315 !X2=3.007
+ !Y2=-2.129
.ends

.subckt PM_senseamp_QB 1 3 5 8 13 17 20 24 28 34 0
c91 34 0 9.66821e-20
c92 28 0 9.37485e-20
c93 8 0 1.43714e-19
c94 5 0 9.9228e-20
c95 3 0 1.96726e-19
c96 1 0 1.96726e-19
r97 34 35 0.144714 !w=0.09 !layer=M1_FINAL !X=3.385 !Y=-9.17 !X2=3.385 !Y2=-9.05
r98 31 32 37.5 !w=0.09 !layer=LILCTP_FINAL !X=3.05 !Y=-9.169 !X2=3.05 !Y2=-9.169
r99 28 31 0.00111077 !w=0.135 !layer=M1_FINAL !X=3.072 !Y=-9.17 !X2=3.072
+ !Y2=-9.169
r100 22 24 0.163619 !w=0.09 !layer=M1_FINAL !X=3.645 !Y=-9.005 !X2=3.645
+ !Y2=-8.854
r101 21 35 0.0587288 !w=0.09 !layer=M1_FINAL !X=3.43 !Y=-9.05 !X2=3.385
+ !Y2=-9.05
r102 20 22 0.558729 !w=0.09 !layer=M1_FINAL !X=3.6 !Y=-9.05 !X2=3.645 !Y2=-9.005
r103 20 21 0.236944 !w=0.09 !layer=M1_FINAL !X=3.6 !Y=-9.05 !X2=3.43 !Y2=-9.05
r104 15 34 0.0487607 !w=0.09 !layer=M1_FINAL !X=3.385 !Y=-9.215 !X2=3.385
+ !Y2=-9.17
r105 15 17 0.393712 !w=0.09 !layer=M1_FINAL !X=3.385 !Y=-9.215 !X2=3.385
+ !Y2=-9.429
r106 14 28 0.254964 !w=0.09 !layer=M1_FINAL !X=3.14 !Y=-9.17 !X2=3.072 !Y2=-9.17
r107 13 34 0.0587288 !w=0.09 !layer=M1_FINAL !X=3.34 !Y=-9.17 !X2=3.385
+ !Y2=-9.17
r108 13 14 0.354378 !w=0.09 !layer=M1_FINAL !X=3.34 !Y=-9.17 !X2=3.14 !Y2=-9.17
r109 8 32 33.1916 !w=0.096 !layer=IPOLY_FINAL !X=2.995 !Y=-8.97 !X2=3.035
+ !Y2=-9.169
r110 5 32 29.5979 !w=0.096 !layer=IPOLY_FINAL !X=2.995 !Y=-9.345 !X2=3.035
+ !Y2=-9.169
r111 3 17 37.5 !w=0.09 !layer=LILSALI_FINAL !X=3.385 !Y=-9.429 !X2=3.385
+ !Y2=-9.429
r112 1 24 37.5 !w=0.09 !layer=LILSALI_FINAL !X=3.645 !Y=-8.854 !X2=3.645
+ !Y2=-8.854
.ends

.subckt PM_senseamp_SAT 1 3 4 5 9 12 15 18 26 29 33 36 39 42 46 47 50 55 58 60
+ 63 81 0
c164 50 0 1.43714e-19
c165 47 0 1.06667e-19
c166 39 0 4.48309e-19
c167 18 0 3.17853e-20
c168 15 0 1.60146e-19
c169 4 0 1.96726e-19
c170 3 0 1.96726e-19
c171 1 0 1.96726e-19
r172 53 55 0.144714 !w=0.09 !layer=M1_FINAL !X=3.265 !Y=-8.305 !X2=3.385
+ !Y2=-8.305
r173 50 51 37.5 !w=0.09 !layer=LILCTP_FINAL !X=3.265 !Y=-8.599 !X2=3.265
+ !Y2=-8.599
r174 47 82 13.9983 !w=0.14 !layer=IPOLY_FINAL !X=3.035 !Y=-5.059 !X2=3.035
+ !Y2=-4.975
r175 47 81 14.2125 !w=0.14 !layer=IPOLY_FINAL !X=3.035 !Y=-5.059 !X2=3.035
+ !Y2=-5.145
r176 46 47 37.5 !w=0.09 !layer=LILCTP_FINAL !X=3.05 !Y=-5.059 !X2=3.05
+ !Y2=-5.059
r177 43 60 0.110046 !w=0.09 !layer=M1_FINAL !X=3.43 !Y=-2.935 !X2=3.385
+ !Y2=-2.935
r178 42 63 0.0587288 !w=0.09 !layer=M1_FINAL !X=3.62 !Y=-2.935 !X2=3.665
+ !Y2=-2.935
r179 42 43 0.205879 !w=0.09 !layer=M1_FINAL !X=3.62 !Y=-2.935 !X2=3.43
+ !Y2=-2.935
r180 37 60 0.423445 !w=0.09 !layer=M1_FINAL !X=3.385 !Y=-2.89 !X2=3.385
+ !Y2=-2.935
r181 37 39 0.906784 !w=0.09 !layer=M1_FINAL !X=3.385 !Y=-2.89 !X2=3.385
+ !Y2=-2.379
r182 36 60 0.423445 !w=0.09 !layer=M1_FINAL !X=3.385 !Y=-2.98 !X2=3.385
+ !Y2=-2.935
r183 35 58 0.423445 !w=0.09 !layer=M1_FINAL !X=3.385 !Y=-5.015 !X2=3.385
+ !Y2=-5.06
r184 35 36 3.02169 !w=0.09 !layer=M1_FINAL !X=3.385 !Y=-5.015 !X2=3.385
+ !Y2=-2.98
r185 31 58 0.423445 !w=0.09 !layer=M1_FINAL !X=3.385 !Y=-5.105 !X2=3.385
+ !Y2=-5.06
r186 31 33 0.890439 !w=0.09 !layer=M1_FINAL !X=3.385 !Y=-5.105 !X2=3.385
+ !Y2=-5.634
r187 30 55 0.0587288 !w=0.09 !layer=M1_FINAL !X=3.385 !Y=-8.26 !X2=3.385
+ !Y2=-8.305
r188 30 33 3.98145 !w=0.09 !layer=M1_FINAL !X=3.385 !Y=-8.26 !X2=3.385
+ !Y2=-5.634
r189 29 53 0.0587288 !w=0.09 !layer=M1_FINAL !X=3.265 !Y=-8.35 !X2=3.265
+ !Y2=-8.305
r190 28 50 0.0691311 !w=0.17 !layer=M1_FINAL !X=3.265 !Y=-8.555 !X2=3.265
+ !Y2=-8.599
r191 28 29 0.222132 !w=0.09 !layer=M1_FINAL !X=3.265 !Y=-8.555 !X2=3.265
+ !Y2=-8.35
r192 27 46 0.0587288 !w=0.09 !layer=M1_FINAL !X=3.095 !Y=-5.06 !X2=3.05
+ !Y2=-5.06
r193 26 58 0.110046 !w=0.09 !layer=M1_FINAL !X=3.34 !Y=-5.06 !X2=3.385 !Y2=-5.06
r194 26 27 0.333808 !w=0.09 !layer=M1_FINAL !X=3.34 !Y=-5.06 !X2=3.095 !Y2=-5.06
r195 18 51 29.4649 !w=0.093 !layer=IPOLY_FINAL !X=3.255 !Y=-8.77 !X2=3.265
+ !Y2=-8.599
r196 15 18 93.75 !w=0.06 !layer=IPOLY_FINAL !X=3.255 !Y=-9.345 !X2=3.255
+ !Y2=-8.97
r197 12 82 131.25 !w=0.06 !layer=IPOLY_FINAL !X=2.995 !Y=-4.45 !X2=2.995
+ !Y2=-4.975
r198 9 81 101.25 !w=0.06 !layer=IPOLY_FINAL !X=2.995 !Y=-5.55 !X2=2.995
+ !Y2=-5.145
r199 5 63 37.5 !w=0.09 !layer=LILSALI_FINAL !X=3.665 !Y=-2.934 !X2=3.665
+ !Y2=-2.934
r200 4 39 37.5 !w=0.09 !layer=LILSALI_FINAL !X=3.385 !Y=-2.379 !X2=3.385
+ !Y2=-2.379
r201 3 60 37.5 !w=0.09 !layer=LILSALI_FINAL !X=3.385 !Y=-2.934 !X2=3.385
+ !Y2=-2.934
r202 1 33 37.5 !w=0.09 !layer=LILSALI_FINAL !X=3.385 !Y=-5.634 !X2=3.385
+ !Y2=-5.634
.ends

.subckt PM_senseamp_Q 1 3 5 8 14 17 18 22 24 26 0
c77 17 0 2.67452e-19
c78 14 0 9.66821e-20
c79 5 0 6.84387e-20
c80 3 0 1.96726e-19
c81 1 0 1.96726e-19
r82 26 28 37.5 !w=0.09 !layer=LILCTP_FINAL !X=3.5 !Y=-9.714 !X2=3.5 !Y2=-9.714
r83 24 26 0.902442 !w=0.09 !layer=M1_FINAL !X=2.91 !Y=-9.715 !X2=3.5 !Y2=-9.715
r84 20 22 0.594987 !w=0.09 !layer=M1_FINAL !X=2.865 !Y=-9.1 !X2=2.865 !Y2=-9.429
r85 19 24 0.558729 !w=0.09 !layer=M1_FINAL !X=2.865 !Y=-9.67 !X2=2.91 !Y2=-9.715
r86 19 22 0.435842 !w=0.09 !layer=M1_FINAL !X=2.865 !Y=-9.67 !X2=2.865
+ !Y2=-9.429
r87 17 20 0.558729 !w=0.09 !layer=M1_FINAL !X=2.82 !Y=-9.055 !X2=2.865 !Y2=-9.1
r88 17 18 0.187675 !w=0.09 !layer=M1_FINAL !X=2.82 !Y=-9.055 !X2=2.65 !Y2=-9.055
r89 12 18 0.558729 !w=0.09 !layer=M1_FINAL !X=2.605 !Y=-9.01 !X2=2.65 !Y2=-9.055
r90 12 14 0.169037 !w=0.09 !layer=M1_FINAL !X=2.605 !Y=-9.01 !X2=2.605
+ !Y2=-8.854
r91 5 28 29.1423 !w=0.093 !layer=IPOLY_FINAL !X=3.515 !Y=-9.545 !X2=3.5
+ !Y2=-9.714
r92 5 8 93.75 !w=0.06 !layer=IPOLY_FINAL !X=3.515 !Y=-9.345 !X2=3.515 !Y2=-8.97
r93 3 22 37.5 !w=0.09 !layer=LILSALI_FINAL !X=2.865 !Y=-9.429 !X2=2.865
+ !Y2=-9.429
r94 1 14 37.5 !w=0.09 !layer=LILSALI_FINAL !X=2.605 !Y=-8.854 !X2=2.605
+ !Y2=-8.854
.ends

.subckt PM_senseamp_BL 1 4 0
r9 1 4 37.5 !w=0.09 !layer=LILSALI_FINAL !X=2.325 !Y=-2.934 !X2=2.325 !Y2=-2.934
.ends

.subckt PM_senseamp_vdd 5 6 9 10 11 12 13 22 25 26 27 29 31 33 37 38 42 43 47 52
+ 53 57 59 63 92 0
c198 92 0 2.48292e-19
c199 64 0 4.7485e-20
c200 43 0 3.27813e-19
c201 38 0 1.98796e-19
c202 37 0 6.86561e-20
c203 27 0 1.67481e-19
c204 12 0 1.85797e-19
r205 64 120 0.0968156 !w=0.1 !layer=M1_FINAL !X=4.27 !Y=-9.429 !X2=4.27
+ !Y2=-9.34
r206 63 64 1 !w=0.1 !layer=VIA1X_FINAL !X=4.27 !Y=-9.429 !X2=4.27 !Y2=-9.429
r207 57 59 1 !w=0.1 !layer=VIA1X_FINAL !X=4.245 !Y=-2.659 !X2=4.245 !Y2=-2.659
r208 52 53 1 !w=0.1 !layer=VIA1X_FINAL !X=3.65 !Y=-9.434 !X2=3.65 !Y2=-9.434
r209 48 96 0.416945 !w=0.1 !layer=M1_FINAL !X=3.125 !Y=-2.659 !X2=3.125
+ !Y2=-2.384
r210 48 92 0.365291 !w=0.1 !layer=M1_FINAL !X=3.125 !Y=-2.659 !X2=3.125
+ !Y2=-2.934
r211 47 48 1 !w=0.1 !layer=VIA1X_FINAL !X=3.125 !Y=-2.659 !X2=3.125 !Y2=-2.659
r212 42 43 1 !w=0.1 !layer=VIA1X_FINAL !X=3.125 !Y=-9.434 !X2=3.125 !Y2=-9.434
r213 37 38 1 !w=0.1 !layer=VIA1X_FINAL !X=2.605 !Y=-9.434 !X2=2.605 !Y2=-9.434
r214 34 52 0.0587288 !w=0.1 !layer=M2X_FINAL !X=3.7 !Y=-9.435 !X2=3.65
+ !Y2=-9.435
r215 33 63 0.0587288 !w=0.1 !layer=M2X_FINAL !X=4.22 !Y=-9.435 !X2=4.27
+ !Y2=-9.435
r216 33 34 0.568474 !w=0.1 !layer=M2X_FINAL !X=4.22 !Y=-9.435 !X2=3.7 !Y2=-9.435
r217 32 47 0.0587288 !w=0.1 !layer=M2X_FINAL !X=3.175 !Y=-2.66 !X2=3.125
+ !Y2=-2.66
r218 31 57 0.0587288 !w=0.1 !layer=M2X_FINAL !X=4.195 !Y=-2.66 !X2=4.245
+ !Y2=-2.66
r219 31 32 1.2127 !w=0.1 !layer=M2X_FINAL !X=4.195 !Y=-2.66 !X2=3.175 !Y2=-2.66
r220 30 42 0.0587288 !w=0.1 !layer=M2X_FINAL !X=3.175 !Y=-9.435 !X2=3.125
+ !Y2=-9.435
r221 29 52 0.0587288 !w=0.1 !layer=M2X_FINAL !X=3.6 !Y=-9.435 !X2=3.65
+ !Y2=-9.435
r222 29 30 0.464619 !w=0.1 !layer=M2X_FINAL !X=3.6 !Y=-9.435 !X2=3.175
+ !Y2=-9.435
r223 28 37 0.0587288 !w=0.1 !layer=M2X_FINAL !X=2.655 !Y=-9.435 !X2=2.605
+ !Y2=-9.435
r224 27 42 0.0587288 !w=0.1 !layer=M2X_FINAL !X=3.075 !Y=-9.435 !X2=3.125
+ !Y2=-9.435
r225 27 28 0.459152 !w=0.1 !layer=M2X_FINAL !X=3.075 !Y=-9.435 !X2=2.655
+ !Y2=-9.435
r226 25 26 0.0957964 !w=0.095 !layer=M1_FINAL !X=4.257 !Y=-3.08 !X2=4.257
+ !Y2=-2.995
r227 25 120 9.18819 !w=0.095 !layer=M1_FINAL !X=4.267 !Y=-3.08 !X2=4.267
+ !Y2=-9.34
r228 22 59 0.0999246 !w=0.1 !layer=M1_FINAL !X=4.245 !Y=-2.75 !X2=4.245
+ !Y2=-2.659
r229 22 26 0.285464 !w=0.09 !layer=M1_FINAL !X=4.245 !Y=-2.75 !X2=4.245
+ !Y2=-2.995
r230 13 53 37.5 !w=0.09 !layer=LILSALI_FINAL !X=3.645 !Y=-9.429 !X2=3.645
+ !Y2=-9.429
r231 12 96 37.5 !w=0.09 !layer=LILSALI_FINAL !X=3.125 !Y=-2.384 !X2=3.125
+ !Y2=-2.384
r232 11 92 37.5 !w=0.09 !layer=LILSALI_FINAL !X=3.125 !Y=-2.934 !X2=3.125
+ !Y2=-2.934
r233 10 43 37.5 !w=0.09 !layer=LILSALI_FINAL !X=3.125 !Y=-9.429 !X2=3.125
+ !Y2=-9.429
r234 9 38 37.5 !w=0.09 !layer=LILSALI_FINAL !X=2.605 !Y=-9.429 !X2=2.605
+ !Y2=-9.429
r235 6 59 37.5 !w=0.09 !layer=LILSALI_FINAL !X=4.245 !Y=-2.659 !X2=4.245
+ !Y2=-2.659
r236 5 64 37.5 !w=0.09 !layer=LILSALI_FINAL !X=4.27 !Y=-9.429 !X2=4.27
+ !Y2=-9.429
.ends

.subckt PM_senseamp_gnd 1 2 5 12 13 15 19 20 24 25 27 30 32 35 36 0
c104 13 0 4.7485e-20
c105 1 0 3.93453e-19
r106 35 36 1 !w=0.1 !layer=VIA1X_FINAL !X=4.465 !Y=-8.114 !X2=4.465 !Y2=-8.114
r107 30 32 1 !w=0.1 !layer=VIA1X_FINAL !X=4.465 !Y=-8.849 !X2=4.465 !Y2=-8.849
r108 27 30 0.0109322 !w=0.1 !layer=M2X_FINAL !X=4.465 !Y=-8.86 !X2=4.465
+ !Y2=-8.85
r109 25 56 2.98473 !w=0.1 !layer=M1_FINAL !X=3.925 !Y=-8.109 !X2=3.925
+ !Y2=-5.634
r110 24 25 1 !w=0.1 !layer=VIA1X_FINAL !X=3.925 !Y=-8.109 !X2=3.925 !Y2=-8.109
r111 19 20 1 !w=0.1 !layer=VIA1X_FINAL !X=3.125 !Y=-8.859 !X2=3.125 !Y2=-8.859
r112 16 24 0.0391612 !w=0.105 !layer=M2X_FINAL !X=3.975 !Y=-8.112 !X2=3.925
+ !Y2=-8.112
r113 15 35 0.0391612 !w=0.105 !layer=M2X_FINAL !X=4.415 !Y=-8.112 !X2=4.465
+ !Y2=-8.114
r114 15 16 0.481017 !w=0.105 !layer=M2X_FINAL !X=4.415 !Y=-8.112 !X2=3.975
+ !Y2=-8.112
r115 14 19 0.0587288 !w=0.1 !layer=M2X_FINAL !X=3.175 !Y=-8.86 !X2=3.125
+ !Y2=-8.86
r116 13 27 0.0587288 !w=0.1 !layer=M2X_FINAL !X=4.415 !Y=-8.86 !X2=4.465
+ !Y2=-8.86
r117 13 14 1.35559 !w=0.1 !layer=M2X_FINAL !X=4.415 !Y=-8.86 !X2=3.175 !Y2=-8.86
r118 12 36 0.128532 !w=0.1 !layer=M1_FINAL !X=4.465 !Y=-8.205 !X2=4.465
+ !Y2=-8.114
r119 11 32 0.125744 !w=0.1 !layer=M1_FINAL !X=4.465 !Y=-8.76 !X2=4.465
+ !Y2=-8.849
r120 11 12 0.848908 !w=0.09 !layer=M1_FINAL !X=4.465 !Y=-8.76 !X2=4.465
+ !Y2=-8.205
r121 5 32 37.5 !w=0.09 !layer=LILSALI_FINAL !X=4.465 !Y=-8.829 !X2=4.465
+ !Y2=-8.829
r122 2 56 37.5 !w=0.09 !layer=LILSALI_FINAL !X=3.925 !Y=-5.634 !X2=3.925
+ !Y2=-5.634
r123 1 20 37.5 !w=0.09 !layer=LILSALI_FINAL !X=3.125 !Y=-8.854 !X2=3.125
+ !Y2=-8.854
.ends

.subckt PM_senseamp_net019 1 2 9 13 14 18 19 0
r47 18 19 1 !w=0.1 !layer=VIA1X_FINAL !X=3.665 !Y=-5.639 !X2=3.665 !Y2=-5.639
r48 13 14 1 !w=0.1 !layer=VIA1X_FINAL !X=3.125 !Y=-5.639 !X2=3.125 !Y2=-5.639
r49 10 13 0.0587288 !w=0.1 !layer=M2X_FINAL !X=3.175 !Y=-5.64 !X2=3.125
+ !Y2=-5.64
r50 9 18 0.0587288 !w=0.1 !layer=M2X_FINAL !X=3.615 !Y=-5.64 !X2=3.665 !Y2=-5.64
r51 9 10 0.481017 !w=0.1 !layer=M2X_FINAL !X=3.615 !Y=-5.64 !X2=3.175 !Y2=-5.64
r52 2 19 37.5 !w=0.09 !layer=LILSALI_FINAL !X=3.665 !Y=-5.634 !X2=3.665
+ !Y2=-5.634
r53 1 14 37.5 !w=0.09 !layer=LILSALI_FINAL !X=3.125 !Y=-5.634 !X2=3.125
+ !Y2=-5.634
.ends

.subckt PM_senseamp_BLB 1 4 0
r13 1 4 37.5 !w=0.09 !layer=LILSALI_FINAL !X=3.925 !Y=-2.934 !X2=3.925
+ !Y2=-2.934
.ends

